US07973036B2
Preparation of 1-(2-cyanophenyl)-3-methylpyrazol-5-one
8.5 g (0.05 mol) of 2-hydrazino benzonitrile hydrochloride, 6 g (0.05 mol) of methyl acetoacetate and 100 ml of methanol were added into a 250 ml reaction flask, and then 50% methanol sodium solution (5.5 g (0.051 mol) sodium methoxide dissolved in 50 ml methanol) was added under stirring. After stirring for 10 min, the mixture was heated and refluxed for 6 h, and immediately filtered. The solid was washed with 20 ml of methanol. The methanol was recovered until the remained volume was 50 ml. 200 ml of ice water was poured with stirring to give the solid. The solid was filtered and washed with water to give 7 g of light yellow solid.

reactant | 2-hydrazino benzonitrile hydrochloride | 0.05 mol, 8.5 g | Cl.N(N)C1=C(C#N)C=CC=C1
reactant | methyl acetoacetate | 0.05 mol, 6 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | methanol sodium | 0.051 mol, 50 ml, 5.5 g | [Na].CO
reactant | sodium methoxide | 0.051 mol | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-(2-cyanophenyl)-3-methylpyrazol-5-one | 7 g | C(#N)C1=C(C=CC=C1)N1NC(=CC1=O)C | C11H9N3O
